US07723326B2
A. 4-Bromo-5-methyl-benzene-1,2-diamine (Compound 24A)
To the solution of 4-methyl-2-nitro-phenylamine (1 g, 1 eq.) in 15 mL of acetic acid was added NBS (1.4 g, 1.2 eq.). The reaction was allowed to stir for 2.5 hours. Reaction was then diluted with 15 mL of water and Zn dust (1.29 g, 3 eq.) was added. Reaction was stirred for 1 hour, filtered and then pH was adjusted to ˜7 with ammonia. The aqueous layer was extracted with CH2Cl2 twice, dried over Na2SO4, concentrated and adsorbed on silica. Purification by flash column chromatography (60:40 hexanes/EtOAc) afforded 1.1 g (83 %) of product as off-white solid. MS (electrospray): mass calculated for C7H9BrN2, 201.06; m/z found 202.2, [M+H]+.

reactant | 4-methyl-2-nitro-phenylamine | 1 g, 1 eq. | CC1=CC(=C(C=C1)N)[N+](=O)[O-] | C7H8N2O2
reactant | NBS | 1.4 g, 1.2 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 15 mL | O | H2O
catalyst | Zn | 1.29 g, 3 eq. | [Zn] | Zn
product | 4-Bromo-5-methyl-benzene-1,2-diamine | 1.1 g, 83 % | BrC=1C=C(C(=CC1C)N)N | C7H9BrN2
